US07687491B2
(4a) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)thiophene-2-carbonitrile
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 3 (3a) using [(5-bromo-2-thienyl)methoxy]t-butyldimethylsilane (2.4 g, 7.8 mmol) [reference literature: Tetrahedron, vol. 39, 2531 (1983)] and copper cyanide (1.3 g, 14 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:50 to 1:7) as the eluent to afford the title compound (1.1 g) in a yield of 56% as a white crystalline solid.

reactant | [(5-bromo-2-thienyl)methoxy]t-butyldimethylsilane | 7.8 mmol, 2.4 g | BrC1=CC=C(S1)CO[Si](C)(C)C(C)(C)C | C11H19BrOSSi
reactant | copper cyanide | 14 mmol, 1.3 g | [Cu](C#N)C#N
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)thiophene-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(S1)C#N | C12H19NOSSi
